US04245097
Preparation of 4-(16-bromohexadecylamino)-N-(2,3-dihydroxypropyl)benzamide
To a mixture containing 4.3 g. of 1-{4-[N-(t-butyloxycarbonyl)-N-(16-bromohexadecyl)amino]benzoyl}imidazole, 50 ml. of chloroform, and 50 ml. of 5 N sodium hydroxide is added 1.1 g. of 3-amino-1,2-propanediol. The solution is vigorously stirred for 24 hours, the layers are separated, and the chloroform solution is washed once with 50 ml. of 1 N sodium hydroxide. The solid is evaporated and the residue is heated for 30 minutes at 40° C. and 50 ml. of anhydrous trifluoroacetic acid. The solvent is again evaporated and the oil is crystallized from acetone to yield the product as a light yellow crystalline solid.

reactant | 1-{4-[N-(t-butyloxycarbonyl)-N-(16-bromohexadecyl)amino]benzoyl}imidazole | C(C)(C)(C)OC(=O)N(CCCCCCCCCCCCCCCCBr)C1=CC=C(C(=O)N2C=NC=C2)C=C1 | C31H48BrN3O3
reactant | sodium hydroxide | 5 N | [OH-].[Na+]
reactant | 3-amino-1,2-propanediol | NCC(CO)O | C3H9NO2
solvent | chloroform | C(Cl)(Cl)Cl | CHCl3
product | 4-(16-bromohexadecylamino)-N-(2,3-dihydroxypropyl)benzamide | BrCCCCCCCCCCCCCCCCNC1=CC=C(C(=O)NCC(CO)O)C=C1 | C26H45BrN2O3
